US09421205B2
(a) 1-Methyl-4-(4-nitrophenyl)piperazine (I11)
To 4-(4′-nitrophenyl)piperazine hydrochloride (1.00 g, 4.10 mmol) was added formic acid (1.55 mL, 41.0 mmol) and 37% aq. formaldehyde (3.06 mL, 41.0 mmol) in a microwave vessel and the reaction was heated at 120° C. for 3 minutes. To the cooled reaction mixture was added EtOAc (100 mL) and 2 M aq. NaOH (70 mL). The layers were separated and the organic layer was washed with brine (50 mL), the layers were separated and the aqueous brine layer was extracted with EtOAc (50 mL), the organic layers were combined and dried (Na2SO4), filtered and concentrated in vacuo to give the crude product which was purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-60% methanol (containing 1% ammonia solution) in EtOAc) to give the title compound (I11) (0.636 g, 70% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 8.07-8.01 (m, 2H), 7.05-6.99 (m, 2H), 3.48-3.40 (m, 4H), 2.46-2.39 (m, 4H), 2.21 (s, 3H). LCMS Method C: rt 1.45 min; m/z 222.2 [M+H]+.

reactant | 4-(4′-nitrophenyl)piperazine hydrochloride | 4.10 mmol, 1.00 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1
reactant | formic acid | 41.0 mmol, 1.55 mL | C(=O)O | CH2O2
reactant | formaldehyde | 41.0 mmol, 3.06 mL | C=O | CH2O
reactant | NaOH | 2 M, 70 mL | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-Methyl-4-(4-nitrophenyl)piperazine | 0.636 g, 70% yield | CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
